datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1(C)C(O)C(C)C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C(C)C(C)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[NH:10]([H])C(C)C([H])C(C)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(C)C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[S]2.[H][O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OC)[H])([O-:21])C1=CC=CC=C1>>C1(C([O:21][C:20](O1)([O-:10])OC)C1=CC=CC=C1)[H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OC1=CC=CC=C1)[H])[H]>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OC1=CC=CC=C1)[H])[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[O:10]([K])C(CC)C(C)/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]CC)[O]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[Cl:21])C1=CC=CC=C1)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[Cl-:21] 10=20;20,21=21"
"CCCCCC[O+:10]([Na])[C:21]([O-:20])(OCC)OCCCCCC>>[O:20]=[C:21](OCC)OCCCCCC.CCCCCC[O:10][Na] 20=21;21,10=10"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21][H]>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CC)[H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CC)CC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])[H])CC)[O-:10])CC 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)([O-:21])CCCCCC>>C1(C([O:21][C:20](O1)([O-:10])OC)CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(O)C([H])C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(C)C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([NH][H])[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[NH]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)[H]>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[O:20]=[C:21](OC1=CC=CC=C1)OC1=CC=CC=C1.CC[O:10][Na]>>CC[O+:10]([Na])[C:21]([O-:20])(OC1=CC=CC=C1)OC1=CC=CC=C1 10=21;21,20=20"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[Cl-:21] 10=20;20,21=21"
"[NH:10](C)C(C)/C([H])=C(C)\C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(C)=C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])C>>[H]C1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(CC)[NH]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.[H][S:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
